US06359134B1
1-(trans-4-Methoxycarbonylacetimidoylaminocyclohexane-1-ylcarbonyl)-4-(6-chloronaphthalene-2-sulfonyl)piperazine
To a solution of 1-(trans-4-acetimidoylaminocyclohexane-1-ylcarbonyl)-4-(6-chloronaphthalene-2-sulfonyl)piperazine (300 mg) and triethylamine (199 mg) in dichloromethane (30 ml) was added methyl chlorocarbonate (192 mg), and the mixture was stirred at room temperature for 30 minutes. The reaction solution was concentrated, and the residue was purified with silica gel column chromatography (ethyl acetate) to give colorless crystals of the title compound (171 mg).

reactant | 1-(trans-4-acetimidoylaminocyclohexane-1-ylcarbonyl)-4-(6-chloronaphthalene-2-sulfonyl)piperazine | 300 mg | C(C)(=N)N[C@@H]1CC[C@H](CC1)C(=O)N1CCN(CC1)S(=O)(=O)C1=CC2=CC=C(C=C2C=C1)Cl | C23H29ClN4O3S
reactant | triethylamine | 199 mg | C(C)N(CC)CC | C6H15N
reactant | methyl chlorocarbonate | 192 mg | C(OC)(=O)Cl | C2H3ClO2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 1-(trans-4-Methoxycarbonylacetimidoylaminocyclohexane-1-ylcarbonyl)-4-(6-chloronaphthalene-2-sulfonyl)piperazine | 171 mg | COC(=O)CC(=N)N[C@@H]1CC[C@H](CC1)C(=O)N1CCN(CC1)S(=O)(=O)C1=CC2=CC=C(C=C2C=C1)Cl | C25H31ClN4O5S
